US06207668B1
1.) 5-Chloro-6-ethyl-4-(2-phenyltetrahydropyran-5-ylamino)pyrimidine
2.4 g (13.5 mmol) of 4,5-dichloro-6-ethylpyrimidine, 2.4 g (13.5 mmol) of 5-amino-2-phenyltetrahydropyran (prepared from 2-phenyltetrahydropyran-5-ol (cf. U.S. Pat. No. 4,388,104) analogously to the routes described in Example A) and 3 ml (21 mmol) of triethylamine were heated for 12 hours at 85° C. After cooling, the mixture was diluted with water and extracted with ether, and the organic phase was washed with saturated NaCl solution. After drying and concentrating, the residue was purified by column chromatography using petroleum ether/ethyl acetate (9:1, 8:2). This gave 0.65 g (15% of theory) of the trans isomer as a colorless oil and 2.17 g (51% of theory) of the cis isomer as a colorless oil.

reactant | 4,5-dichloro-6-ethylpyrimidine | 13.5 mmol, 2.4 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
reactant | 5-amino-2-phenyltetrahydropyran | 13.5 mmol, 2.4 g | NC1CCC(OC1)C1=CC=CC=C1 | C11H15NO
reactant | 2-phenyltetrahydropyran-5-ol | C1(=CC=CC=C1)C1OCC(CC1)O | C11H14O2
reactant | triethylamine | 21 mmol, 3 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 5-Chloro-6-ethyl-4-(2-phenyltetrahydropyran-5-ylamino)pyrimidine | ClC=1C(=NC=NC1CC)NC1CCC(OC1)C1=CC=CC=C1 | C17H20ClN3O
